US06821980B1
(36b) 2-Methyl-propane-1-sulphonic acid 4′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-3′-fluoro-biphenyl-2-yl ester
Starting from 241 mg (0.84 mmol) N-(4-bromo-2-fluoro-phenyl)-2,2,2-trifluoro-acetamide and 215 mg (0.42 mmol) 2-methyl-propane-1-sulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-iodo-phenyl ester, 164 mg of the title compound are obtained as a pale brown foam.

reactant | N-(4-bromo-2-fluoro-phenyl)-2,2,2-trifluoro-acetamide | 0.84 mmol, 241 mg | BrC1=CC(=C(C=C1)NC(C(F)(F)F)=O)F | C8H4BrF4NO
reactant | 2-methyl-propane-1-sulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-iodo-phenyl ester | 0.42 mmol, 215 mg | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)OS(=O)(=O)CC(C)C)I)OCC | C17H23IN4O4S
product | 2-Methyl-propane-1-sulphonic acid 4′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-3′-fluoro-biphenyl-2-yl ester | 164 mg | NC1=C(C=C(C=C1)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OS(=O)(=O)CC(C)C)F | C23H28FN5O4S
